US07598249B2
4-(4-Cyclohexyloxy-benzyl)-piperazine-1-carboxylic acid phenylamide
To a mixture of 4-(4-hydroxy-benzyl)-piperazine-1-carboxylic acid phenylamide (311 mg) and cyclohexanol (150 mg) in DCM (4 mL) was added polymer-supported Ph3P (500 mg) followed by di-tert-butyl azodicarboxylate (345 mg). The reaction mixture was shaken overnight, and filtered. Chromatography of the filtrate gave the title compound as a white solid (110 mg). 1H NMR (400 MHz, CDCl3): 7.36-7.19 (m, 6H), 7.05-7.00 (m, 1H), 6.88-6.84 (m, 2H), 6.30 (s, 1H), 4.25-4.20 (m, 1H), 3.50-3.47 (m, 6H), 2.48-2.46 (m, 4H), 2.01-1.97 (m, 2H), 1.82-1.80 (m, 2H), 1.60-1.29 (m, 6H).

reactant | 4-(4-hydroxy-benzyl)-piperazine-1-carboxylic acid phenylamide | 311 mg | C1(=CC=CC=C1)NC(=O)N1CCN(CC1)CC1=CC=C(C=C1)O | C18H21N3O2
reactant | cyclohexanol | 150 mg | C1(CCCCC1)O | C6H12O
reactant | Ph3P | 500 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 345 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Cyclohexyloxy-benzyl)-piperazine-1-carboxylic acid phenylamide | 110 mg | C1(=CC=CC=C1)NC(=O)N1CCN(CC1)CC1=CC=C(C=C1)OC1CCCCC1 | C24H31N3O2
